US04851410
3-[4-(4-Piperidinomethylpyrazol-1-yloxy)-butylamino]benzoisothiazole 1,1-dioxide
3.5 g of 4-(4-piperidinomethylpyrazol-1-yloxy)butylamine and 1.4 g of triethylamine are dissolved in 50 ml of methylene chloride. A solution of 2.8 g of 3-chlorobenzoisothiazole 1,1-dioxide in 15 ml of methylene chloride is then added dropwise. After standing for 3 hours at room temperature, the reaction mixture is washed with water, the organic phase is evaporated down and the residue is chromatographed over neutral Al2O3 (activity level III), using methylene chloride as the mobile phase. 1.7 g of the title compound are obtained, the product being crystallized from ether.

reactant | 4-(4-piperidinomethylpyrazol-1-yloxy)butylamine | 3.5 g | N1(CCCCC1)CC=1C=NN(C1)OCCCCN | C13H24N4O
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
reactant | 3-chlorobenzoisothiazole 1,1-dioxide | 2.8 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-(4-Piperidinomethylpyrazol-1-yloxy)-butylamino]benzoisothiazole 1,1-dioxide | 1.7 g | N1(CCCCC1)CC=1C=NN(C1)OCCCCNC1=NS(C2=C1C=CC=C2)(=O)=O | C20H27N5O3S
